US07186729B2
Step 1: 2-(5-{3-[2-(4-Chloro-phenylamino)-ethylamino]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
To a solution of N-(4-chloro-phenyl)-ethane-1,2-diamine (0.68 g, 3.96 mmol) in isopropanol (8.0 mL) was added 2,6-lutidine (0.31 mL, 2.64 mmol) and catalytic potassium iodide. This mixture was heated to 80° C. and then treated with 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.15 g, 0.4 mmol) in portions over 2 h. The solution was then stirred at 80° C. for an additional 18 h. The reaction mixture was concentrated in vacuo, then purified by flash chromatography on silica gel (gradient elution from 95% ethyl acetate/5% methanol to 90% ethyl acetate/20% methanol) to yield the title compound. 1H-NMR (DMSO) δ: 1.40 (6H, s), 2.20–2.40 (2H, m), 2.70–2.90(3H, m), 3.10–3.30 (3H,m), 5.20 (2H, br, s), 5.80 (1H, m), 6.15 (1H, t), 6.60–6.70 (1H, m), 7.10–7.30 (4H, m) 7.50 (2H, m), 7.80 (1H, dd), 8.50 (1H, dd). ESI-MS m/z: 464 (M+1), UV retention time: 1.40 min.

reactant | N-(4-chloro-phenyl)-ethane-1,2-diamine | 3.96 mmol, 0.68 g | ClC1=CC=C(C=C1)NCCN | C8H11ClN2
reactant | 2,6-lutidine | 2.64 mmol, 0.31 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | potassium iodide | [I-].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.4 mmol, 0.15 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | 8.0 mL | C(C)(C)O | C3H8O
product | 2-(5-{3-[2-(4-Chloro-phenylamino)-ethylamino]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | ClC1=CC=C(C=C1)NCCNCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C27H30ClN3O2
